US04266067
The reaction was performed in the same manner as in Example 4 except that a solution of 8.0 g (200 mmol) of sodium hydroxide in 90 ml of water was used and 14.2 g (50 mmol) of 2-(dibromoacetyl)thiophene was used, gave 5.6 g of 2-thiopheneglycolic acid (yield: 77%).

reactant | sodium hydroxide | 200 mmol, 8.0 g | [OH-].[Na+]
reactant | 2-(dibromoacetyl)thiophene | 50 mmol, 14.2 g | BrC(C(=O)C=1SC=CC1)Br | C6H4Br2OS
reactant | water | 90 ml | O | H2O
product | 2-thiopheneglycolic acid | 5.6 g, yield: 77% | S1C(=CC=C1)C(C(=O)O)O | C6H6O3S
